US09428487B2
Stage 1: ethyl oxo[N′-(pyridine-3-carbonyl)hydrazino]acetate
28.0 g (204 mmol) of nicotinic hydrazide were dissolved in 700 ml of DMF by gentle heating, then 52.5 g (518 mmol) of triethylamine were added and, while cooling with an ice bath, a solution of 31.7 g (232 mmol) of oxalyl chloride in 40 ml of dichloromethane was added dropwise. The mixture was stirred for 15 minutes and concentrated by evaporation, and the residue was partitioned between water (pH7) and chloroform/isopropanol (10:1). The organic phase was dried and concentrated under reduced pressure.

reactant | nicotinic hydrazide | 204 mmol, 28.0 g | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
reactant | triethylamine | 518 mmol, 52.5 g | C(C)N(CC)CC | C6H15N
reactant | oxalyl chloride | 232 mmol, 31.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 700 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | ethyl oxo[N′-(pyridine-3-carbonyl)hydrazino]acetate | O=C(C(=O)OCC)NNC(=O)C=1C=NC=CC1 | C10H11N3O4
